US03987191
Preparation of (Methylsulfinylmethyl) Tributyltin
Dimethylamino tributyltin (33.4 g.; 0.1 moles) and dimethylsulfoxide (100 g.; 1.28 moles) were stirred in a 250 ml reaction flask, under a positive pressure argon atmosphere, for 4.5 hours at 80° C. During the reaction, liberated dimethylamine gas exited from the reaction flask through an open port with the moving argon gas. The reaction stood overnight at ambient temperature. Excess dimethylsulfoxide was distilled at 75° C at 15 mm Hg. The reaction product was distilled through a semi-micro distillation apparatus at 138° C at 0.1 mm Hg. Yield of 25 g (68%) was identified as (methylsulfinylmethyl) tributyltin by 'H NMR and infrared spectra.

reactant | Dimethylamino tributyltin | 0.1 moles, 33.4 g | CN(C)[Sn](CCCC)(CCCC)CCCC
reactant | dimethylsulfoxide | 1.28 moles, 100 g | CS(=O)C | C2H6OS
reactant | dimethylamine | CNC | C2H7N
product | (Methylsulfinylmethyl) Tributyltin | CS(=O)C[Sn](CCCC)(CCCC)CCCC | InChI=1S/3C4H9.C2H5OS.Sn/c3*1-3-4-2;1-4(2)3;/h3*1,3-4H2,2H3;1H2,2H3;
